US08232319B2
2-Chloro-4-(3-chlorophenylthio)benzaldehyde
3-Chlorobenzenethiol and 2-chloro-4-fluorobenzaldehyde were reacted according to the same experiment procedures as in Reference Example 1 of the pamphlet of WO 03029205 to obtain the target product as a colorless oil.

reactant | 3-Chlorobenzenethiol | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | 2-chloro-4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
product | 2-Chloro-4-(3-chlorophenylthio)benzaldehyde | ClC1=C(C=O)C=CC(=C1)SC1=CC(=CC=C1)Cl | C13H8Cl2OS
